US08404679B2
N-{(3RS,4SR)-4-(4-Chloro-phenyl)-1-[1-(3,3,3-trifluoro-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 104, the title compound N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(3,3,3-trifluoro-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 3,3,3-trifluoropropanal instead of acetone and was obtained as a light brown oil. MS m/e: 620.3 [M]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H29ClF3N3O3
reactant | 3,3,3-trifluoropropanal | FC(CC=O)(F)F | C3H3F3O
product | N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(3,3,3-trifluoro-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)CCC(F)(F)F)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C29H32ClF6N3O3
